US06211234B1
To a stirred mixture of 3-bromobenzaldehyde (20 g), tert butyl acrylate (40 mL), triethylamine (44 mL) and tris(2-methylphenyl)phosphine (3.4 g) in dry dimethylformamide (300 mL) is added palladium (II) acetate in one portion. The resulting dark brown mixture is heated at 100° C. for 18 hours then evaporated in vacuo. The residual semi-solid is partitioned between ethyl acetate (250 mL) and 2 N hydrochloric acid (250 mL). the organic phase is washed three times with water (250 mL), dried over magnesium sulphate and evaporated. The resulting dark brown oil (28.1 g) is purified by flash chromatography on silica eluting initially with a mixture of cyclohexane and dichloromethane (4:1 v/v) then with a mixture of cyclohexane and dichloromethane (1:1 v/v). Fractions homogeneous in the required product are combined and evaporated to give tert-butyl 3-(3-formylphenyl)acrylate as a yellow oil (14.08 g).

reactant | 3-bromobenzaldehyde | 20 g | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | tert butyl acrylate | 40 mL | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | triethylamine | 44 mL | C(C)N(CC)CC | C6H15N
reactant | tris(2-methylphenyl)phosphine | 3.4 g | CC1=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C | C21H21P
solvent | dimethylformamide | 300 mL | CN(C=O)C | C3H7NO
catalyst | palladium (II) acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | tert-butyl 3-(3-formylphenyl)acrylate | 14.08 g | C(=O)C=1C=C(C=CC1)C=CC(=O)OC(C)(C)C | C14H16O3
